US06166027
100 mg of 3-(1-benzylindazole-3-carboxamido)-1,1-dichloro-but-1-ene (0.267 mmol) and 29 mg of sodium methylate were stirred in 0.5 ml of N-methylpyrrolidone at 100° C. under argon overnight. The crude mixture was cooled and purified directly by column chromatography (SiO2, cyclohexane:ethyl acetate 3:1). 35.9 mg (40%) of 2-(1-benzylindazol-3-yl)-5-methoxymethyl4-methyloxazole were isolated as a 3,1- 10 yellowish oil.

reactant | 3-(1-benzylindazole-3-carboxamido)-1,1-dichloro-but-1-ene | 0.267 mmol, 100 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C(=O)NC(C=C(Cl)Cl)C | C19H17Cl2N3O
reactant | sodium methylate | 29 mg | C[O-].[Na+]
solvent | N-methylpyrrolidone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(1-benzylindazol-3-yl)-5-methoxymethyl4-methyloxazole | 35.9 mg, 40% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=C(N1)C)COC | C20H19N3O2
